US04921962
Bis-(1-nonyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
A 2-phase mixture of 85.7 g (0.666 mol) of 70% aqueous tert-butyl hydroperoxide, 200 ml of n-nonane and 15 g of sodium chloride is agitated in a separatory funnel. The organic layer is dried over anhydrous magnesium sulfate. A mixture of 40.0 g (0.0832 mol) of bis-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate and the tert-butyl hydroperoxidenonane solution is heated to reflux (151° C.) under a nitrogen atmosphere. To this mixture is added over a 10-minute period, a solution of 5.0 g of titanium tetrabutoxide in 50 ml of nonane. The reaction mixture turns red. Water is collected in a Dean Stark trap. The reaction mixture is heated at reflux for 17 hours. Another 5.0 g of titanium tetrabutoxide is added, and the reaction mixture is heated at reflux for an additional 7 hours. Solids are removed by filtration, and the filtrate is concentrated under reduced pressure. The crude red oil obtained is purified by chromatography (Waters Prep 500A HPLC; 29:1 heptane:ethyl acetate) to give 3.6 g (6% yield) or the title compound as a light yellow oil.

reactant | tert-butyl hydroperoxide | 0.666 mol, 85.7 g | C(C)(C)(C)OO | C4H10O2
reactant | sodium chloride | 15 g | [Cl-].[Na+]
reactant | bis-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 0.0832 mol, 40.0 g | C(CCCCCCCCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C28H52N2O4
solvent | nonane | 50 ml | CCCCCCCCC | C9H20
catalyst | titanium tetrabutoxide | 5.0 g | [O-]CCCC.[O-]CCCC.[O-]CCCC.[O-]CCCC.[Ti+4]
solvent | n-nonane | 200 ml | CCCCCCCCC | C9H20
product | Bis-(1-nonyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | 6% yield | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCCC)(C)C | C46H88N2O6
